US07910740B2
2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-4-trifluoromethyl-thiazole-5-carboxylic acid ethyl ester
The title compound was prepared in analogy to example 1 step e) from 76 mg (0.33 mmol) ethyl 2-chloro-3-keto-4,4,4-trifluorobutyrate and 79 mg (0.3 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea. The reaction was refluxed for 5 days. The crude product was purified on silica gel with methylene chloride/methanol 9/1. The crude product was stirred with methylene chloride/diethyl ether. The precipitate was filtered off and dried to yield 31 mg (24%) of 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-4-trifluoromethyl-thiazole-5-carboxylic acid ethyl ester as a light yellow solid. MS ISP (m/e): 427.1 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=11.27 (s, 1H), 7.71 (s, 1H), 7.60 (s, 1H), 7.37 (d, 1H), 7.18 (d, 1H), 7.08 (d, 1H), 4.29 (q, 1H), 3.81 (s, 3H), 2.15 (s, 3H), 1.28 (t, 3H).

reactant | ethyl 2-chloro-3-keto-4,4,4-trifluorobutyrate | 0.33 mmol, 76 mg | ClC(C(=O)OCC)C(C(F)(F)F)=O | C6H6ClF3O3
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.3 mmol, 79 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
product | 2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-4-trifluoromethyl-thiazole-5-carboxylic acid ethyl ester | 31 mg, 24% | C(C)OC(=O)C1=C(N=C(S1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)C(F)(F)F | C18H17F3N4O3S
